US09340527B2
Step 1: Perhydro-azepine-4-carboxylic acid hydrochloride
Perhydro-azepine-1,4-dicarboxylic acid 1-tert-butyl ester (1 g, 4 mmol) was dissolved in 4 M of Hydrogen chloride in 1,4-Dioxane (10 mL, 40 mmol) and stirred at room temperature for 1 hour. Crude reaction was concentrated to dryness and used without additional purification.

reactant | Perhydro-azepine-1,4-dicarboxylic acid 1-tert-butyl ester | 4 mmol, 1 g | C(C)(C)(C)OC(=O)N1CCC(CCC1)C(=O)O | C12H21NO4
reactant | 1,4-Dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
reactant | Hydrogen chloride | 4 M | Cl | ClH
product | Perhydro-azepine-4-carboxylic acid hydrochloride | Cl.N1CCC(CCC1)C(=O)O | InChI=1S/C7H13NO2.ClH/c9-7(10)6-2-1-4-8-5-3-6;/h6,8H,1-5H2,(H,9,10);1H
